*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXG200ARA121MF61G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXG200ARA121MF61G_20deg-C 1 2

C1 4 2 7.73e-05
C2 5 2 2.95e-05
C3 6 2 7.23e-06
R1 3 4 1.33e-02
R2 4 5 6.01e-02
R3 5 6 2.16e+00
L1 1 3 2.60e-09

.ENDS
